US08974920B2
n-Butyllithium in hexane (2.5 M, 20 mL) was added slowly under nitrogen to a stirred solution of 2,2-diphenylvinyl bromide (6.50 g, 25.1 mmol) in THF (40 mL) at −78° C. and then the mixture was stirred further for 1 h. n-Butyl borate (15 mL, 55.5 mmol) was added at −78° C. before the mixture was warmed slowly to room temperature and stirred overnight. Water (50 mL) was added, followed by conc. HCl (100 mL) to acidify the mixture, which was then stirred for 3 h. The reaction mixture was extracted with EtOAc and the combined organic phases were dried over MgSO4. Concentration under reduced pressure gave 2,2-diphenylvinyl boronic acid, which, without further purification, was reacted with pinacol (4.25 g, 36.0 mmol) in toluene under reflux for 2 h to effect condensation by the azeotropic removal of the water formed. The mixture was concentrated under reduced pressure and the residue was purified by column chromatography (hexanes/CH2Cl2=1/1) to afford C (4.10 g, 53%) as transparent liquid.

reactant | n-Butyllithium | C(CCC)[Li]
reactant | 2,2-diphenylvinyl bromide | 25.1 mmol, 6.50 g | C1(=CC=CC=C1)C(=CBr)C1=CC=CC=C1 | C14H11Br
reactant | n-Butyl borate | 55.5 mmol, 15 mL | B(OCCCC)([O-])[O-]
reactant | HCl | 100 mL | Cl | ClH
solvent | hexane | 2.5 M, 20 mL | CCCCCC | C6H14
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | Water | 50 mL | O | H2O
product | 2,2-diphenylvinyl boronic acid | C1(=CC=CC=C1)C(=CB(O)O)C1=CC=CC=C1 | C14H13BO2
